US06399613B1
A solution of 392 mg of 2,5-dimethoxycarbonylpyrazine and 780 mg of N-methylglucamine in 5 cm3 of ethanol is heated at a temperature close to the reflux temperature for 3 hours and the reaction mixture is filtered while hot. The white solid is washed with twice 10 cm3 of boiling ethanol. 1000 mg of N-methyl-N-[(2S,3R,4R,5R)-2,3,4,5-tetrahydroxy-1-hexyl]-N′-methyl-N′-[(2S,3R,4R,5R)-2,3,4,5-tetrahydroxy-1-hexyl]-pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 152° C. [1H NMR spectrum (400 MHz, (CD3)2SO-d6, at a temperature of 403 K, δ in ppm): 3.14 (s, 6H: 2×NCH3); from 3.45 to 4.28 (mts, 16H: 8×CHO−2×CH2 and 2×CH2N); 8.78 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 392 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | N-methylglucamine | 780 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
product | N-methyl-N-[(2S,3R,4R,5R)-2,3,4,5-tetrahydroxy-1-hexyl]-N′-methyl-N′-[(2S,3R,4R,5R)-2,3,4,5-tetrahydroxy-1-hexyl]-pyrazine-2,5-dicarboxamide | 1000 mg | CN(C(=O)C1=NC=C(N=C1)C(=O)N(C[C@@H]([C@H]([C@@H]([C@@H](C)O)O)O)O)C)C[C@@H]([C@H]([C@@H]([C@@H](C)O)O)O)O | C20H34N4O10
